US04997947
There is added to a solution of 32 ml of concentrated sulphuric acid and 6.8 g of silver nitrate (AgNO3) in 400 ml of water first of all 50 g of 5-ethylpyridine-2,3-dicarboxylic acid diethyl ester and, when a homogeneous solution has been obtained, 25.8 g of cyclopropanecarboxylic acid. The solution is then heated to 70° and a solution of 68.2 g of ammonium peroxydisulphate (NH4)2S2O8 is added dropwise thereto while stirring vigorously. When the evolution of CO2 has ceased, the reaction mixture is stirred for a further 20 minutes, then cooled to 15° and extracted twice with 200 ml of methylene chloride each time. The methylene chloride extract is dried over magnesium sulphate, filtered and concentrated. The oily residue is purified by chromatography over a column of silica gel using ether/hexane 1:1. Evaporation of the solvent yields 20 g of 5-ethyl-6-cyclopropyl-pyridine-2,3-dicarboxylic acid in the form of a yellow oil.

reactant | sulphuric acid | 32 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-ethylpyridine-2,3-dicarboxylic acid diethyl ester | 50 g | C(C)OC(=O)C1=NC=C(C=C1C(=O)OCC)CC | C13H17NO4
reactant | cyclopropanecarboxylic acid | 25.8 g | C1(CC1)C(=O)O | C4H6O2
reactant | CO2 | C(=O)=O | CO2
solvent | water | 400 ml | O | H2O
catalyst | silver nitrate | 6.8 g | [N+](=O)([O-])[O-].[Ag+]
product | 5-ethyl-6-cyclopropyl-pyridine-2,3-dicarboxylic acid | 20 g | C(C)C=1C=C(C(=NC1C1CC1)C(=O)O)C(=O)O | C12H13NO4
